US05939359
Synthesis of N-(cyclopropyl)-2-(3-trifluoromethylphenoxy)-3-pyrazinecarboxamide (compound 1.001)
0.11 g (2.0 mmol) of cyclopropylamine is added to a suspension of 3.0 g (10 mmol) of methyl 2-(3-trifluoromethylphenoxy)-3-pyrazinecarboxylate, 20 g of 3 Å molecular sieve and 20 g of 5 Å molecular sieve in 240 ml of dry toluene at room temperature. The reaction mixture is refluxed for 6 hours. After the mixture has cooled to room temperature, solid components are filtered off. The filtrate is extracted with 10% strength, aqueous hydrochloric acid, washed with distilled water, dried over magnesium sulfate, filtered and freed from the solvent under reduced pressure. 2.8 g (81%) of a colorless, crystalline solid of melting point 74-77° C. are obtained.

reactant | cyclopropylamine | 2.0 mmol, 0.11 g | C1(CC1)N | C3H7N
reactant | methyl 2-(3-trifluoromethylphenoxy)-3-pyrazinecarboxylate | 10 mmol, 3.0 g | FC(C=1C=C(OC2=NC=CN=C2C(=O)OC)C=CC1)(F)F | C13H9F3N2O3
solvent | toluene | 240 ml | C1(=CC=CC=C1)C | C7H8
product | N-(cyclopropyl)-2-(3-trifluoromethylphenoxy)-3-pyrazinecarboxamide | C1(CC1)NC(=O)C=1C(=NC=CN1)OC1=CC(=CC=C1)C(F)(F)F | C15H12F3N3O2
